US04312876
Trans-4-(4-benzyloxyphenoxy)-1-methyl-3-phenylpiperidine hydrochloride
To a suspension of 14.2 g of cis-1-methyl-3-phenyl-4-piperidinol, 21.4 g of triphenylphosphine, 16.3 g of hydroquinone monobenzyl ether and 375 ml of anhydrous benzene is added dropwise under nitrogen at 5° C. a solution of 14 g of diethyl azodicarboxylate in 375 ml of benzene. After the addition is complete the mixture is stirred overnight at room temperature and the precipitated solid is filtered and washed with benzene. The filtrate is concentrated in vacuo to a dark brown oil which is triturated overnight with 500 ml of hexane in a stoppered flask. The hexane is decanted and the gummy solid is triturated with a little ether. The resulting solid is filtered and washed well with ether. The combined filtrates are concentrated in vacuo, and the residue is dissolved in 750 ml of ether and extracted with 2 N hydrochloric acid (1×300 ml, 1×150 ml). The acid washings are extracted with dichloromethane (1×300 ml, 1×150 ml). The dichloromethane extracts are washed with 10% sodium hydroxide solution (300 ml), water (300 ml), and sodium chloride solution (300 ml), dried over anhydrous sodium sulfate and concentrated in vacuo to afford a brown gum. The gum is triturated with hexane, then with ether, filtered, washed with ether, and the filtrate concentrated in vacuo to afford a solid. The solid is dissolved in 500 ml of ether and treated dropwise with 20 ml of saturated ethereal hydrogen chloride. The precipitate is filtered, washed with ether, dried and recrystallized from 75 ml of absolute ethanol to afford product as nearly colorless crystals, mp 213.5°-214.5° C.

reactant | cis-1-methyl-3-phenyl-4-piperidinol | 14.2 g | CN1C[C@H]([C@H](CC1)O)C1=CC=CC=C1 | C12H17NO
reactant | triphenylphosphine | 21.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | hydroquinone monobenzyl ether | 16.3 g | C=1(O)C(=CC(O)=CC1)C1=CC=CC=C1COCC1=CC=CC=C1C=1C(O)=CC=C(C1)O | C26H22O5
reactant | diethyl azodicarboxylate | 14 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrogen chloride | 20 ml | Cl | ClH
solvent | benzene | 375 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | benzene | 375 ml | C1=CC=CC=C1 | C6H6
product | Trans-4-(4-benzyloxyphenoxy)-1-methyl-3-phenylpiperidine hydrochloride | Cl.C(C1=CC=CC=C1)OC1=CC=C(O[C@H]2[C@@H](CN(CC2)C)C2=CC=CC=C2)C=C1 | InChI=1S/C25H27NO2.ClH/c1-26-17-16-25(24(18-26)21-10-6-3-7-11-21)28-23-14-12-22(13-15-23)27-19-20-8-4-2-5-9-20;/h2-15,24-25H,16-19H2,1H3;1H/t24-,25+;/m0./s1
